US05244908
Synthesis of 5-[2-[2H-1,3-benzooxazine-2,4(3H)-dion-3-yl]ethylthio]imidazo[1,2-a]pyridine (Compound 164)
To a solution of 5-[2-[2-(hydroxy)benzoylamino]ethylthio]imidazo[1,2-a]pyridine (627 mg, 2.00 mmoles) in dry tetrahydrofuran (30 ml) was added 1,1'-carbonyldiimidazole (649 mg, 4.00 mmoles) and the mixture was stirred at room temperature for 15 hours. After the solvent was distilled off, chloroform was added to the residue, which was washed with water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 528 mg of the desired product (77.8%, colorless crystals).

reactant | 5-[2-[2-(hydroxy)benzoylamino]ethylthio]imidazo[1,2-a]pyridine | 2.00 mmoles, 627 mg | OC1=C(C(=O)NCCSC2=CC=CC=3N2C=CN3)C=CC=C1 | C16H15N3O2S
reactant | 1,1'-carbonyldiimidazole | 4.00 mmoles, 649 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-[2-[2H-1,3-benzooxazine-2,4(3H)-dion-3-yl]ethylthio]imidazo[1,2-a]pyridine | 528 mg, 77.8% | O1C(N(C(C2=C1C=CC=C2)=O)CCSC2=CC=CC=1N2C=CN1)=O | C17H13N3O3S
